US05106869
(3-1) Ethyl 2,2-dimethyl-caproate
A solution of isobutyric acid (45 g) in THF was added to LDA prepared at -78° C. according to the conventional manner and stirred for one hour. A solution of butyl iodine (107 g) in dry HMPA was added, and stirred at -78° C. for one hour, and at room temperature for additional one hour. The crude product obtained after the conventional work-up was distilled.

reactant | isobutyric acid | 45 g | C(C(C)C)(=O)O | C4H8O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | butyl iodine | 107 g | C(CCC)I | C4H9I
reactant | THF | C1CCOC1 | C4H8O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Ethyl 2,2-dimethyl-caproate | CC(C(=O)OCC)(CCCC)C | C10H20O2
